US05252698
Diaminotetraphenylporphyrin
Dinitrotetraphenylporphyrin (2.0 g 2.83 m mol) was added to a hydrogenation flask (500-ml) and dissolved in dry toluene (200-ml). To this solution was added the catalyst about 10% ruthenium on alumina pellets (4.0 g, from Engelhard Industries, Iselin, N.J.). After evacuation, and flushing with hydrogen, the reduction was performed at 70° at 60 psi for 8-hr. Next, the flask was cooled to ambient temperature, filtered in the dark to remove the catalyst. The solid catalyst was washed repeatedly with toluene to obtain the product. The organic solvent was removed under reduced pressure in the dark at 50° C. to produce the crude solid residue. This residue showed one spot above the two spots near the base line for the product. An additional brown spot very close to the starting material was also observed. The residue was 1.6 g.

reactant | Dinitrotetraphenylporphyrin | 2.0 g | [N+](=O)([O-])N1C=2C=CC1=C(C=1C=CC(=C(C3=CC=C(N3[N+](=O)[O-])C(=C3C=CC(C2C2=CC=CC=C2)=N3)C3=CC=CC=C3)C3=CC=CC=C3)N1)C1=CC=CC=C1 | C44H28N6O4
solvent | toluene | 200-ml | C1(=CC=CC=C1)C | C7H8
catalyst | ruthenium on alumina | [Ru] | Ru
product | Diaminotetraphenylporphyrin | NN1C=2C=CC1=C(C=1C=CC(=C(C3=CC=C(N3N)C(=C3C=CC(C2C2=CC=CC=C2)=N3)C3=CC=CC=C3)C3=CC=CC=C3)N1)C1=CC=CC=C1 | C44H32N6
